US08975443B2
A flask was charged with 1.05 g of 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one (2.33 mmol, 1.0 equiv), the atmosphere was sparged with argon and 12 mL of argon-sparged diethylene glycol was added. The flask was mounted with a Dean-Stark trap and condenser to collect distillate. The mixture was charged with 1.05 mL of hydrazine hydrate (55 wt % hydrazine, 11.7 mmol, 5 equiv) and 0.77 g of potassium hydroxide (88 wt %, 12.1 mmol, 5 equiv) and the mixture was immersed in an oil bath at 115° C. under an argon atmosphere. The temperature of the bath was gradually increased to 200° C. over two hours and kept at that temperature for 5 h. The reaction mixture was cooled to room temperature under argon gas. The reaction mixture was partitioned between heptane and water. The organic solution was washed once with 0.1 M aqueous hydrochloric acid, once with 10 wt % aqueous sodium carbonate and once with water. The organic solution was concentrated in vacuo with gentle heating and the residue dried in vacuo to give 0.99 g of 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinane (97 area % by HPLC, 94% yield) as a white solid. 1H NMR(C6D6, 500 MHz), δ=0.93 (d, 6H, J=10 Hz), 1.11 (d, 6H, J=7 Hz), 1.13 (d, 6H, J=19 Hz), 1.23 (d, 6H, J=7 Hz), 1.31-1.26 (m, 2H), 1.42 (d, 6H, J=7 Hz), 1.57-1.50 (m, 1H), 1.65-1.57 (m, 1H), 1.88-1.83 (m, 2H), 2.79 (sept, 2H, J=7 Hz), 2.84 (sept, 1H, J=7 Hz), 7.12-7.11 (m, 2H), 7.22 (s, 2H), 7.27-7.24 (m, 1H), 7.98-7.93 (m, 1H); 31P NMR(C6D6, 202 MHz), δ ppm −0.4 (br singlet).

reactant | 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinan-4-one | 2.33 mmol, 1.05 g, 1.0 equiv | CC1(P(C(CC(C1)=O)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C30H43OP
reactant | hydrazine hydrate | 11.7 mmol, 1.05 mL, 5 equiv | O.NN
reactant | potassium hydroxide | 12.1 mmol, 0.77 g, 5 equiv | [OH-].[K+]
product | 2,2,6,6-tetramethyl-1-(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphinane | 0.99 g, 94% yield | CC1(P(C(CCC1)(C)C)C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C | C30H45P
